US06376555B1
3-[2-(4-tert-Butyl-phenyl)-ethylamino]-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione
In a manner similar to Example 1, Step 2; 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione (0.150 g, 0.609 mmol) and 4-tert-butyl-phenethylamine (0.216 g, 1.22 mmol) in ethanol (2 mL) were converted to the title compound (0.180 g, 81%) m.p.: 258.1-260.2° C.; 1H NMR (DMSO-d6) δ 9.07(br t,1H), 7.97(ABq,2H), 7.29(ABq,2H), 7.14(d,2H), 7.09(d,2H), 3.87(m,2H), 3.83(s,3H), 2.84(t,2H), 1.23(s,9H); IR (KBr) 3160, 2950, 1775, 1720, 1580, 1425, 1350, 1300, 1250, 1180, 1020, 840 cm−1; MS (m/z) 364 [M+H+].

reactant | 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione | 0.609 mmol, 0.150 g | C(C)(C)OC=1C(C(C1C1=CC=C(C=C1)OC)=O)=O | C14H14O4
reactant | 4-tert-butyl-phenethylamine | 1.22 mmol, 0.216 g | C(C)(C)(C)C1=CC=C(CCN)C=C1 | C12H19N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[2-(4-tert-Butyl-phenyl)-ethylamino]-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione | 0.180 g, 81% | C(C)(C)(C)C1=CC=C(C=C1)CCNC=1C(C(C1C1=CC=C(C=C1)OC)=O)=O | C23H25NO3
